US04659365
The procedures of Example 3 were repeated except that the starting material was 50 ml of an acetone solution containing 8.9 g (51 mmol) of 2-difluoromethoxy-6-methyl aniline, to which 10.5 g (77 mmol) of potassium carbonate and 7.0 g (62 mmol) of chloroacetyl chloride were added. As a result, 12.0 g of 2-chloro-2'-difluoromethoxy-6'-methylacetanilide was obtained. It had a melting point of 85° to 86° C.

reactant | 2-difluoromethoxy-6-methyl aniline | 51 mmol, 8.9 g | FC(OC1=C(N)C(=CC=C1)C)F | C8H9F2NO
reactant | potassium carbonate | 77 mmol, 10.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetyl chloride | 62 mmol, 7.0 g | ClCC(=O)Cl | C2H2Cl2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-chloro-2'-difluoromethoxy-6'-methylacetanilide | 12.0 g | ClCC(=O)NC1=C(C=CC=C1C)OC(F)F | C10H10ClF2NO2
